US03944679
The above aromatic composition of the present process is added in an amount of 1 ppm to the material milk of yoghurt and the material is fermented to make yoghurt. A 5 % ethanol solution of the mixture (in the ratio 1:1) of 3-isopropyl-4-ethyl-7-hydroxyindan-1-one and 2-methyl-5,6-methylenedioxyindan-1-one is added to the material milk but in an amount to give 10 ppm by weight of said indanone compounds mixture thereto, and yoghurt is prepared therefrom.

reactant | 3-isopropyl-4-ethyl-7-hydroxyindan-1-one | C(C)(C)C1CC(C2=C(C=CC(=C12)CC)O)=O | C14H18O2
reactant | 2-methyl-5,6-methylenedioxyindan-1-one | CC1C(C2=CC3=C(C=C2C1)OCO3)=O | C11H10O3
solvent | ethanol | C(C)O | C2H6O
product | indanone | C1(CCC2=CC=CC=C12)=O | C9H8O
